US04011320
6 G. of 2-nitro-4-thiocyanatoaniline in 30 ml. of dimethylformamide is treated under nitrogen with 1.2 g. of sodium borohydride at 20° to 30°. After 11/2 hours 15 ml. of acetone is added, followed 2 hours later by 10 g. of 3-chloropropylbromide. The mixture is left at 20°-25° for 16 hours, then diluted with water. The oily product is extracted into chloroform and passed through a silica column. 2-Nitro-4-(3-chloropropylthio)aniline is isolated by evaporation of the solvent.

reactant | 2-nitro-4-thiocyanatoaniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)SC#N | C7H5N3O2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | 3-chloropropylbromide | ClCCCBr | C3H6BrCl
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 2-Nitro-4-(3-chloropropylthio)aniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)SCCCCl | C9H11ClN2O2S
